US07091193B2
Formation of Epothilone D-Hydroxypropyl-β-Cyclodextrin Lyophylate
A combination of ten milligrams (“mg”) of epothilone D and 0.4 grams (“g”) of hydroxypropyl-β-cyclodextrin (“HPβCD”) were dissolved in 60% tert-butanol-water to make 1 milliliter (“mL”) of solution. A second solution having ten mg of epothilone D and ten mg of mannitol dissolved in 60% tert-butanol-water was prepared. A third solution of ten mg of epothilone D and ten mg of mannitol in 60% tert-butanol-water was also prepared. Formulation solutions containing ten mg/mL epothilone D were poured into 8 mL glass vials for lyophilization.

reactant | epothilone D | ten milligrams | CC1=NC(=CS1)/C=C(\C)/[C@@H]2C/C=C(\CCC[C@@H]([C@@H]([C@H](C(=O)C([C@H](CC(=O)O2)O)(C)C)C)O)C)/C | C27H41NO5S
reactant | hydroxypropyl-β-cyclodextrin | 0.4 grams | CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | C63H112O42
reactant | epothilone D | ten mg | CC1=NC(=CS1)/C=C(\C)/[C@@H]2C/C=C(\CCC[C@@H]([C@@H]([C@H](C(=O)C([C@H](CC(=O)O2)O)(C)C)C)O)C)/C | C27H41NO5S
reactant | mannitol | ten mg | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
reactant | epothilone D | ten mg | CC1=NC(=CS1)/C=C(\C)/[C@@H]2C/C=C(\CCC[C@@H]([C@@H]([C@H](C(=O)C([C@H](CC(=O)O2)O)(C)C)C)O)C)/C | C27H41NO5S
reactant | mannitol | ten mg | C([C@@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)O | C6H14O6
solvent | tert-butanol water | C(C)(C)(C)O.O
product | Epothilone D Hydroxypropyl-β-Cyclodextrin | CC1=NC(=CS1)/C=C(\C)/[C@@H]2C/C=C(\CCC[C@@H]([C@@H]([C@H](C(=O)C([C@H](CC(=O)O2)O)(C)C)C)O)C)/C.CC(COC[C@@H]1[C@@H]2[C@@H]([C@H]([C@H](O1)O[C@@H]3[C@H](O[C@@H]([C@@H]([C@H]3O)O)O[C@@H]4[C@H](O[C@@H]([C@@H]([C@H]4O)O)O[C@@H]5[C@H](O[C@@H]([C@@H]([C@H]5O)O)O[C@@H]6[C@H](O[C@@H]([C@@H]([C@H]6O)O)O[C@@H]7[C@H](O[C@@H]([C@@H]([C@H]7O)O)O[C@@H]8[C@H](O[C@H](O2)[C@@H]([C@H]8O)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)COCC(C)O)O)O)O | InChI=1S/C63H112O42.C27H41NO5S/c1-22(64)8-85-15-29-50-36(71)43(78)57(92-29)100-51-30(16-86-9-23(2)65)94-59(45(80)38(51)73)102-53-32(18-88-11-25(4)67)96-61(47(82)40(53)75)104-55-34(20-90-13-27(6)69)98-63(49(84)42(55)77)105-56-35(21-91-14-28(7)70)97-62(48(83)41(56)76)103-54-33(19-89-12-26(5)68)95-60(46(81)39(54)74)101-52-31(17-87-10-24(3)66)93-58(99-50)44(79)37(52)72;1-16-9-8-10-17(2)25(31)19(4)26(32)27(6,7)23(29)14-24(30)33-22(12-11-16)18(3)13-21-15-34-20(5)28-21/h22-84H,8-21H2,1-7H3;11,13,15,17,19,22-23,25,29,31H,8-10,12,14H2,1-7H3/b;16-11-,18-13+/t22?,23?,24?,25?,26?,27?,28?,29-,30-,31-,32-,33-,34-,35-,36-,37-,38-,39-,40-,41-,42-,43-,44-,45-,46-,47-,48-,49-,50-,51-,52-,53-,54-,55-,56-,57-,58-,59-,60-,61-,62-,63-;17-,19+,22-,23-,25-/m10/s1
